US09084794B2
a) 7-bromoquinoline-3-carbonitrile
A mixture of 3,3-diethoxypropanenitrile (1.80 mL, 12.00 mmol), 2-amino-4-bromobenzaldehyde (2 g, 10.00 mmol) and p-toluenesulfonic acid monohydrate (0.380 g, 2.000 mmol) in toluene (30 mL) was heated under reflux using Dean-Stark apparatus for 3 h. The reaction was cooled, evaporated under reduced pressure, and the residue was dissolved in a small amount of DMF, diluted with chloroform, and washed with aq. sodium bicarbonate solution. The aqueous layer was extracted with chloroform, and the combined extracts were washed with brine, dried (Na2SO4), and concentrated in vacuo. Purification by flash chromatography (0-3% methanol in dichloromethane) followed by trituration in diethyl ether provided the title compound (1.75 g, 75%). 1H NMR (400 MHz, DMSO-d6) δ ppm 7.95 (dd, J=8.72, 1.89 Hz, 1 H) 8.08 (d, J=8.84 Hz, 1 H) 8.38 (d, J=2.02 Hz, 1 H) 9.13 (d, J=1.52 Hz, 1 H) 9.21 (d, 1 H).

reactant | 3,3-diethoxypropanenitrile | 12.00 mmol, 1.80 mL | C(C)OC(CC#N)OCC | C7H13NO2
reactant | 2-amino-4-bromobenzaldehyde | 10.00 mmol, 2 g | NC1=C(C=O)C=CC(=C1)Br | C7H6BrNO
reactant | p-toluenesulfonic acid monohydrate | 2.000 mmol, 0.380 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 7-bromoquinoline-3-carbonitrile | 1.75 g, 75% | BrC1=CC=C2C=C(C=NC2=C1)C#N | C10H5BrN2
